US08710043B2
Step 4. (S)-2-Methyl-propane-2-sulfinic Acid ((3-bromo-pyridin-2-yl)-(4-trifluoromethyl-phenyl)-methyl)-amide
To a stirred suspension of magnesium (2.143 g, 88 mmol) in THF (50 mL), was added 4-bromobenzotrifluoride (5.06 mL, 36.2 mmol). Stirring was continued for 4 h (caution: slightly exothermic, cooled with a water bath if needed). The resulting mixture was added to a stirred solution of (S,E)-N-((3-bromopyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide (5.1 g, 17.64 mmol) in THF (100 mL) at −78° C. in a dropwise fashion. The mixture was stirred for another hour after addition and the reaction was then quenched with saturated aqueous NH4Cl, extracted with Et2O (3×20 mL), dried over Na2SO4, concentrated, and purified by column chromatography using silica (100-200 mesh) with 5% EtOAc in hexane as eluent to give the title compound as a brown oil.

reactant | magnesium | 88 mmol, 2.143 g | [Mg] | Mg
reactant | 4-bromobenzotrifluoride | 36.2 mmol, 5.06 mL | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | (S,E)-N-((3-bromopyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide | 17.64 mmol, 5.1 g | BrC=1C(=NC=CC1)\C=N\[S@@](=O)C(C)(C)C | C10H13BrN2OS
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (S)-2-Methyl-propane-2-sulfinic Acid ((3-bromo-pyridin-2-yl)-(4-trifluoromethyl-phenyl)-methyl)-amide | BrC=1C(=NC=CC1)C(C1=CC=C(C=C1)C(F)(F)F)N[S@@](=O)C(C)(C)C | C17H18BrF3N2OS
